US04328346
(b) 3-(3-Trimethoxysilylpropoxy)phenyl benzoate
A mixture of 25.4 g. (0.1 mole) of 3-allyloxyphenyl benzoate, 50 ml. of dry toluene, 20 g. (0.15 mole) of trimethoxysilane and 2 drops of platinum hydrosilation catalyst is heated at 90° C. for 17 hours under nitrogen. After the reaction mixture is cooled to about 20° C., it is concentrated under reduced pressure to produce the uv precursor product. For purification, the product is passed through a short silica column using dichloromethane as an eluent.

reactant | 3-allyloxyphenyl benzoate | 0.1 mole | C(C1=CC=CC=C1)(=O)OC1=CC(=CC=C1)OCC=C | C16H14O3
reactant | trimethoxysilane | 0.15 mole | CO[SiH](OC)OC | C3H10O3Si
catalyst | platinum | 2 drops | [Pt] | Pt
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Trimethoxysilylpropoxy)phenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC(=CC=C1)OCCC[Si](OC)(OC)OC | C19H24O6Si
